US05852014
a) Ethyl 2-Aminophenylacetate
A solution of ethyl 2-nitrophenylacetate (13.6 g, 0.065 mole) in ethanol (150 ml) was hydrogenated over 10% Pd/C catalyst (1 g) at room temperature and pressure for 18 hours. The reaction mixture was filtered through keiselguhr and concentrated in vacuo to afford the title compound as a clear oil, which solidified on standing (10.8 g, 93%).

reactant | ethyl 2-nitrophenylacetate | 0.065 mole, 13.6 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)OCC | C10H11NO4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | Ethyl 2-Aminophenylacetate | NC1=C(C=CC=C1)CC(=O)OCC | C10H13NO2
